* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.subckt  sky130_fd_pr__esd_rf_diode_pw2nd_11v0_200 c0 c1
+ 
.param  area = -1 perim = -1.0
resd_ndiode_h_200 c0 a1  r = 0.97922
d1 a1 c1 sky130_fd_pr__diode_pw2nd_11v0__no_rs area = {area*1.48}
.ends sky130_fd_pr__esd_rf_diode_pw2nd_11v0_200
